Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
birth control
 
Attending: ___
 
Chief Complaint:
Speech changes; tingling in R thumb, index
finger, and middle finger; frontal headache

 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ year old female with DMT2 (not on any
medications, poorly controlled with diet and exercise), GERD, 
who
was transferred from ___ where she presented with changes
in her speech, frontal headache, as well as transient tingling 
of
her R thumb, index finger, and middle finger. She was in her
usual state of health until 1 week ago (___) when she noted that
her tongue felt different, as it was swollen. She also thought
that her mouth felt dry. She called her PCP's office and was
advised to start taking OTC Benadryl for presumed allergic
reaction. She took 1 pill of unknown dose of OTC Benadryl in the
morning and in the evening of FRI, SAT, and SUN. the Benadryl
made her drowsy and she slept through most of the weekend.  She
went to work on MON (works as a ___) and she told 
a
nurse at work about her symptoms.  At that time the nurse noted
that her speech was different, she was speaking more slowly than
usual and had difficulty getting words out - patient describes
this as if she knew what she wanted to say but it took her 
longer
than usual to say it.  She went to ___ ER where she was
assessed and endorsed starting birth control pills 1 week prior
to onset of symptoms (unclear which birth control), was advised
to stop it and take scheduled Benadryl every 6 hours.  She was
discharged home and felt well.  She went to the ___ class the
same day and is able to tolerate the exercise without any
symptoms.  On TUE and WED she was taking the scheduled Benadryl
as advised, felt tired but was able to push through the day.  
She
states that her symptoms of the tongue sensation have improved 
on
Benadryl but did not resolve completely which is why she
presented to urgent care at her PCPs office where she was
evaluated and the concern was raised about postnasal drip and
possibly nasal voice, she was referred to ENT for further
evaluation and was scheduled to see them on ___. On ___ morning
(yesterday) upon awakening she noted tingling sensation on the
dorsal surface of her right thumb, index finger, middle finger,
up to the wrist.  She drove to work and shared hair symptoms 
with
the NP whom she works for who also noted that her voice sounded
different than baseline.  At that time she also noticed that she
was experiencing a centrally located frontal headache that was
dull, constant, radiating to the back, 4 out of 10,
non-positional. EMS was called and she was taken to ___. 
By the time of the arrival of the EMS, the tingling sensation in
the right hand resolved (total duration of 3 hours), but she
noted numbness over the same distribution in the right hand as
the tingling. 

At ___, she was evaluated with NCHCT which was negative
for hemorrhage but showed bilateral frontal cortical
hypodensities concerning for infarction and small subcortical
hypodensity in bilateral frontal and parietal lobes. MRI brain
showed multiple bilateral frontal peripherally located foci of
restricted diffusion concerning for infarcts.  MRA of head and
neck showed occlusive disease in both supraclinoid ICA and MCA
concerning for moyamoya disease.  US duplex of bilateral 
carotids
was negative for evidence of carotid stenosis.  She was
transferred here for further evaluation and management. EKG w/
NSR, left axis deviation noted, T-wave inversions in lead III,
QTC 382, no other acute significant ST-T wave changes noted
compared to prior EKG from ___.  Labs notable for
hemoglobin 9.3 with MCV 72, LDL 121, Hgb A1c 8.6, ESR 59, CRP
18.2, Mg 1.6 (repleted).  Blood cultures were drawn on 
admission.
___, anticardiolipin antibodies, beta-2 macroglobulin ordered 
and
pending at the time of transfer.  She was started on aspirin 81
mg daily, atorvastatin 40 mg daily.  She was scheduled to get 
TTE
with bubble study; however, was transferred prior to completion.

Of note, patient has never had similar symptoms. Patient's 
mother
who lives with her (and is present at bedside) has not noted any
speech changes.  Furthermore, patient states that she has a long
history of speech difficulties and in the past has been slurring
words and has had difficulties pronouncing some words as a 
child,
but has never received any speech therapy.  Patient has never
been a smoker, and denies IV drug use.

On neuro ROS, the pt denies loss of vision, blurred
vision, diplopia, dysphagia, lightheadedness, vertigo, tinnitus
or hearing difficulty. Denies difficulties comprehending speech. 

Denies focal weakness, numbness. No bowel or bladder 
incontinence
or retention. Denies difficulty with gait.

On general review of symptoms, pt denied recent illness. 

 
Past Medical History:
PMH:
DMT2
GERD
Gastric Bypass - ___
 
Social History:
___
Family History:
Diabetes mellitus - mother
___ - brother
___ disease - maternal grandmother father
___ c/b seizures - father, passed away at age ___
years ago)
Stomach cancer - paternal grandmother
No known history of epilepsy, early stroke, moyamoya disease,
vasculitides.
 
Physical Exam:
>>> PHYSICAL EXAM ON DAY OF ADMISSION:
Physical Exam:
___ 1454 Temp: 99.4 PO BP: 122/80 R Sitting HR: 81 RR: 18 
O2
sat: 95% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.  Acanthosis nigricans around
the neck.

Neurologic:

-Mental Status: Alert, oriented x 7. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects. Speech was not dysarthric though sounding
somewhat nasal (per patient's mother - baseline). Able to follow
both midline and appendicular commands. Pt was able to register 
3
objects and recall ___ at 5 minutes. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Minimal R lower facial droop and decreased activation of
facial muscles on the R side.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
or proprioception throughout. No extinction to DSS.

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 

-Gait: Able to ambulate, good initiation, narrow-based, slightly
cautious gait but normal stride and arm swing. Briefly able to
walk in tandem with some difficulty. Romberg absent.

>>> PHYSICAL EXAM ON DAY OF DICHCARGE

Physical Exam:

T98.0, BP 111 / 72, HR 68, RR 18, SpO2 97% Ra

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.  Acanthosis nigricans around
the neck.

Neurologic:

-Mental Status: Alert, oriented x 7. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects. Speech was not dysarthric though sounding
somewhat nasal (per patient's mother - baseline). Able to follow
both midline and appendicular commands. Pt was able to register 
3
objects and recall ___ at 5 minutes. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Minimal R lower facial droop and decreased activation of
facial muscles on the R side.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5-   5-  5-  ___  ___    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
or proprioception throughout. No extinction to DSS.

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 

-Gait: Deferred

 
Pertinent Results:
RELEVANT LABS:

___ 06:45PM   WBC-9.9 RBC-4.28 HGB-8.9* HCT-30.6* MCV-72* 
MCH-20.8* MCHC-29.1* RDW-16.0* RDWSD-40.5
___ 06:45PM   PLT COUNT-454*
___ 06:45PM   ___ PTT-26.3 ___
___ 06:45PM   NEUTS-72.6* ___ MONOS-5.3 EOS-1.4 
BASOS-0.7 IM ___ AbsNeut-7.21* AbsLymp-1.95 AbsMono-0.53 
AbsEos-0.14 AbsBaso-0.07
___ 06:45PM   HYPOCHROM-1+* ANISOCYT-1+* 
POIKILOCY-OCCASIONAL MACROCYT-NORMAL MICROCYT-1+* 
POLYCHROM-NORMAL ELLIPTOCY-OCCASIONAL
___ 06:45PM   RET AUT-1.6 ABS RET-0.07

___ 06:45PM   GLUCOSE-202* UREA N-8 CREAT-0.7 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-23 ANION GAP-11
___ 06:45PM   CALCIUM-8.5 PHOSPHATE-2.8 MAGNESIUM-2.1 
IRON-25*
___ 06:45PM   estGFR-Using this

___ 06:45PM   calTIBC-403 FERRITIN-8.9* TRF-310

___ 06:45PM   25OH VitD-17*
___ 06:45PM   HDL CHOL-54
___ 06:45PM   TSH-1.6

___ 06:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 06:45PM   HIV Ab-NEG

RELEVANT IMAGES:

OSH labs reviewed.

RELEVANT IMAGES AND STUDIES (FROM OSH - transcribed exactly as
appearing in reports):

___ ___:
Impression:
1.  Bilateral frontal cortical hypodensities concerning for
infarction, potentially embolic in distribution.  No hemorrhage.
2.  Smaller subcortical hypodensities in the bilateral frontal
and parietal lobes.
3.  8mm soft tissue nodule in the left parotid superficial lobe,
most likely representing lymph node in a patient of this age. 
However continued clinical follow-up is recommended to document
stability.  If there is interval change, recommend further
evaluation with ultrasound.
4.  Additional findings as described above.

MRI W/WO CONTRAST ___:
Impression:
1.  Multiple bilateral frontal predominantly peripherally 
located
foci of restricted diffusion, some which are cortical is
identified.  These lesions do not demonstrate postcontrast
enhancement although there is some gyriform enhancement along 
the
frontal sulci associated with hypodensity on same day head CT. 
Due to the overall lack of enhancement, this is felt to be most
compatible with late acute infarcts in embolic distribution
rather than demyelinating process.
2.  Subtle sulcal enhancement associated with the regions of
diffusion-weighted hyperintense and FLAIR hyperintense signal
with cortical thickening corresponds to regions of hypodensity 
on
same-day head CT, felt likely to represent luxury perfusion. 
However, clinical correlation for infectious process is
recommended.
3.  The marrow signal is diffusely T1 hypointense, which made be
seen in the setting of marrow reconversion with chronic anemia. 
Correlation with CBC values is recommended.
4.  Additional findings described above.

MRA ___:
Impression:
1.  Occlusive disease identified in both supraclinoid internal
carotid arteries and middle cerebral arteries which is 
consistent
with ___ disease.  The underlying condition can be
determined by clinical correlation.
2.  Decreased proximal flow in the right petrous internal 
carotid
is likely due to distal occlusive disease.

US CAROTID DUPLEX BILAT ___:
Impression: Unremarkable study.  No evidence carotid stenosis.
 
Brief Hospital Course:
Patient is a ___ year old woman with history of diabetes type 2, 
poorly diet-controlled, obesity s/p gastric bypass, who 
initially presented to ___ with a week of intermittent 
symptoms included slurred speech and right hand numbness, after 
recently been started on estrogen containing OCP. There, she was 
found to have scattered foci of acute ischemic infarcts in the 
bilateral frontal and temporal lobes. MRA head was performed and 
showed severe stenosis of the intracranial internal carotid 
arteries and middle cerebral arteries, worse on the right. She 
was subsequently transferred to ___ for further care on the 
Stroke service.

On evaluation here, her overall picture was concerning for 
___ disease. Differential considerations also include 
vasopasm, severe atherosclerosis, vasculitis, etc., although 
these were all deemed far less likely. Further lab workup 
included serum/urine tox screens (negative), CBC with slight 
anemia, ESR/CR (slightly elevated of unclear significance, HIV 
(negative), ___ Ab/Sjo___'s Ab (pending), 
lupus AC/beta2-glycoprotein Ab/anti-cardiolipin Ab (pending), 
ACE (pending), ANCA (pending), and Hgb electrophoresis 
(pending). LDL was 121 and A1c 8.6 at OSH. Vascular Neurosurgery 
was consulted for consideration of diagnostic cerebral 
angiography and further therapeutic options. Given their limited 
availability over the weekend, they will arrange for outpatient 
procedure.

For therapy, she was started on aspirin 81mg daily, atorvastatin 
for hyperlipidemia, and discharged on metformin given poor diet 
control. She should follow up with her PCP to address 
hyperglycemia and hyperlipidemia management.

Transitional issues:
[ ] Neurosurgery to arrange for cerebral angiogram.
[ ] Patient will be scheduled for outpatient Stroke followup.
[ ] Please follow up pending labs: ___, dsDNA, ___ Ab, 
Sjogren's Ab, lupus AC, beta2-glycoprotein Ab, anti-cardiolipin 
Ab, ACE, ANCA, and Hgb electrophoresis.
[ ] Patient should continue aspirin 81mg daily in the meantime 
and was counseled to avoid dehydration.
[ ] Patient should follow up with PCP to address hyperglycemia 
and hyperlipidemia management.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
3.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice daily Disp #*60 
Tablet Refills:*2 
4.  Omeprazole 40 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute bilateral frontal and temporal infarcts
Bilateral ICA/MCA stenosis
Likely Mo___ syndrome
Diabetes type II
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were transferred from ___ to ___ for further 
evaluation of symptoms of changes in your speech, frontal 
headache, and transient tingling of your R thumb, index finger, 
and middle finger. You were evaluated with a CT and MRI of the 
head which were both notable for very small multi-focal strokes 
that were scattered throughout bilateral frontal and parietal 
lobes. The vessels of the head and neck were evaluated and were 
consistent with a disease called moyamoya. Neurosurgery was 
consulted and recommendation was made to further evaluate your 
vasculature with a cerebral angiogram, which will be schedule in 
the near future in an oupatient setting. Additional diagnoses 
were considered as well and several labs were sent to further 
work them up. Your initial exam was notable only for mild right 
facial weakness and very mild weakness of the right arm. 

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- Severe narrowing of the blood vessels in your brain
- Diabetes Mellitus Type 2
- High cholesterol

You may have a condition called Moyamoya syndrome. To evaluate 
for this, you will have a test called a Cerebral Angiogram. We 
will arrange for this as an outpatient in the next week. If you 
do not hear back within the next week, please call ___ to schedule.

We are changing your medications as follows:  
- Start taking Aspirin 81mg daily (for stroke prevention)
- Start taking Atorvastatin 40mg daily (for cholesterol)
- Start taking metformin 500mg twice daily (for diabetes)

Please take your other medications as prescribed.  

Please followup with Neurology and your primary care physician.  


If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
It was a pleasure to take care of you while during this 
hospitalization.

Sincerely,  
Your ___ Neurology Team
 
Followup Instructions:
___